US09290487B2
Synthesis of 1-(3-{[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenoxy]methyl}benzoyl)-L-proline
DMF (125 mL) was added to 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol (8.46 g, 38 mmol), methyl 3-(bromomethyl)benzoate (8.8 g, 38 mmol), and potassium carbonate (10.6 g, 77 mmol), and stirred at room temperature overnight. The resultant was diluted with ethyl acetate, washed with water and saturated brine, and then dried over anhydrous magnesium sulfate. The solvent was distilled away under reduced pressure. To the resulting residue, methanol (150 mL), water (30 mL), and lithium hydroxide (4.8 g, 114 mmol) were added, and stirred at room temperature overnight. After the solvent was distilled away under reduced pressure, the resultant was diluted with ethyl acetate, then washed with 1 N hydrochloric acid and saturated brine, and dried over anhydrous magnesium sulfate. The solvent was distilled away under reduced pressure. To the resulting residue, dichloromethane (150 mL), 1-ethyl-3-(3-dimethylaminopropyl)-carbodiimide hydrochloride (hereinafter, WSC) (7.34 g, 38.2 mmol), tert-butyl L-prolinate (7.95 g, 38.2 mmol), and triethylamine (9.65 mL, 69.4 mmol) were added, and stirred at room temperature overnight. The resultant was washed with water, 1 N hydrochloric acid, 1 N sodium hydroxide, and saturated brine, and then dried over anhydrous magnesium sulfate. The solvent was distilled away under reduced pressure, and the residue was purified by silica gel chromatography (hexane/ethyl acetate). To the resulting compound, TFA (150 mL) was added, and stirred at room temperature for 3 hours. The solvent was distilled away under reduced pressure to thus obtain the title compound.

reactant | 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol | 38 mmol, 8.46 g | CC1(OB(OC1(C)C)C1=CC=C(C=C1)O)C | C12H17BO3
reactant | methyl 3-(bromomethyl)benzoate | 38 mmol, 8.8 g | BrCC=1C=C(C(=O)OC)C=CC1 | C9H9BrO2
reactant | potassium carbonate | 77 mmol, 10.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | lithium hydroxide | 114 mmol, 4.8 g | [OH-].[Li+]
reactant | 1-ethyl-3-(3-dimethylaminopropyl)-carbodiimide hydrochloride | Cl.C(C)N=C=NCCCN(C)C
reactant | WSC | CCN=C=NCCCN(C)C | C8H17N3
reactant | tert-butyl L-prolinate | 38.2 mmol, 7.95 g | N1[C@H](C(=O)OC(C)(C)C)CCC1 | C9H17NO2
reactant | triethylamine | 69.4 mmol, 9.65 mL | C(C)N(CC)CC | C6H15N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dichloromethane | 150 mL | ClCCl | CH2Cl2
solvent | water | 30 mL | O | H2O
solvent | methanol | 150 mL | CO | CH4O
solvent | DMF | 125 mL | CN(C)C=O | C3H7NO
product | 1-(3-{[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenoxy]methyl}benzoyl)-L-proline | yield: 88% | CC1(OB(OC1(C)C)C1=CC=C(OCC=2C=C(C(=O)N3[C@H](C(=O)O)CCC3)C=CC2)C=C1)C | C25H30BNO6
